Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C@:3]([H:4])(/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C@@:3]([H:4])([C:5]#[C:6][H:7])[C:12]([H:13])([H:14])[H:15],1.64026057641
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:3].[O:1]=[C:2][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],4.405948349719999
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7],7.11604235005
[H:5].[O:1]=[C:2]([H:3])[C:4][C:6]([H:7])([H:8])[O:9][H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10],-4.922281203380001
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:9]=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-1.73297136018
[H:1][O:2][O:3][C@@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])(=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][O:3],0.18666057707000006
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11].[H:1],4.261090182619999
[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C:7][O:9][C:10]([H:11])[H:12].[H:8]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12],-4.54997871141
[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:3],4.60777730864
[C:8]([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2][C:3]([H:4])([H:5])[C:6][H:7]>>[H:1][C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])([H:13])[H:14],-7.10594301421
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:9],5.0348510622
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11][C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])([C:11])([H:14])[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:12][H:13],4.56421325024
[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-6.02579778961
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9]>>[C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9].[O:1],8.00260420705
[H:1][C:2]([C:3]#[C:4][C:6]([H:7])([H:8])[H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][C:2](=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9])[O:10][C:11]([H:12])([H:13])[H:14],-3.75782993645
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]=[C:9]([H:10])[H:11]>>[C:3]([H:4])([H:5])=[C:6][O:7][C:8]=[C:9]([H:10])[H:11].[H:1][O:2],3.54421675524
[O:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]([C:2]([H:3])[C:4]([H:5])([H:10])[H:11])[H:7].[O:6]=[C:8][H:9],3.4390165391900003
[H:1][C:2]([H:3])=[C:4]([H:5])[H:6].[O:7]=[C:8]=[C:9]([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])=[C:11]([H:12])[H:13],1.86116667738
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])[H:4],0.987947974739
[H:1][C:2](=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([C:3]#[C:4][C:6]([H:7])([H:8])[H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:5],3.75782993645
[C:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:10][H:11].[C:7]([H:8])([C:9])([H:12])[H:13],4.21398236308
[C:1]#[C:2][O:3][C:4]([H:5])[H:6]>>[C:1][C:2][O:3].[C:4]([H:5])[H:6],2.8152027132
[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]#[C:8][H:9]>>[H:6].[O:1][O:2][C:3]([H:4])[C:5][C:7]#[C:8][H:9],4.57669312727
[O:1]=[C:2]([H:3])[C:4](=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:8].[O:1]=[C:2]([H:3])[C:4]([C:5]#[C:6][H:7])[C:9]([H:10])([H:11])[H:12],3.98010624337
[C:4][C:5]([H:6])([H:7])[C:8][O:9][H:10].[H:1][C:2]#[C:3]>>[H:1][C:2]=[C:3]=[C:4][C:5]([H:6])([H:7])[C:8][O:9][H:10],-5.82816704739
[C:12]([H:13])([H:14])[H:15].[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.67190378625
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])[H:11].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8])[C:12]([H:13])([H:14])[H:15],7.469534050960001
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]#[C:3][H:4],1.4098094289200005
